US07638515B2
3-[1-(3-Chloro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-(trifluoromethyl)propanal
6.18 g (20.83 mmol) of ethyl-3-[1-(3-chloro-2-methoxyphenyl)-cyclopropyl]-2-oxopropionate is dissolved in 33 ml of tetrahydrofuran and mixed with 3.55 g (24.99 mmol) of (trifluoromethyl)-trimethylsilane. After 51 mg of tetrabutylammonium fluoride is added, the batch is stirred overnight. The reaction mixture is diluted with methyl tert-butyl ether, washed once with water and then with brine. After conventional working-up, the residue is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). The isolated 5.65 g (66.4%) of product is mixed in 76 ml of tetrahydrofuran with 4.34 g (13.75 mmol) of tetrabutylammonium fluoride, and it is stirred for one hour at room temperature. After the reaction mixture is mixed with water, it is extracted with methyl tert-butyl ether. After conventional working-up, the residue is chromatographed on a Flashmaster. 2.39 g (47.4%) of the desired compound: ethyl-2-[1-(3-chloro-2-methoxyphenyl)-cyclopropylmethyl]-3,3,3-trifluoro-2-hydroxypropionate is isolated.

reactant | ethyl-3-[1-(3-chloro-2-methoxyphenyl)-cyclopropyl]-2-oxopropionate | 20.83 mmol, 6.18 g | C(C)OC(C(CC1(CC1)C1=C(C(=CC=C1)Cl)OC)=O)=O | C15H17ClO4
reactant | (trifluoromethyl)-trimethylsilane | 24.99 mmol, 3.55 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 13.75 mmol, 4.34 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 76 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium fluoride | 51 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-[1-(3-Chloro-2-methoxyphenyl)-cyclopropyl]-2-hydroxy-2-(trifluoromethyl)propanal | 2.39 g, 47.4% | ClC=1C(=C(C=CC1)C1(CC1)CC(C=O)(C(F)(F)F)O)OC | C14H14ClF3O3
